US04501605
Hydrazine hydrate (12.5 g) was added to a solution of 2-bromo-5-t-butyl-1,3,4-thiadiazole (22.1 g) in ethanol (100 ml), and the mixture was heated under reflux for 2 hours. The solvent was evaporated to give an oily solid which was crystallised from water to give 2-hydrazino-5-t-butyl-1,3,4-thiadiazole (13.7 g, 79%) as white needles, mp 111°-112° C.

reactant | Hydrazine hydrate | 12.5 g | O.NN
reactant | 2-bromo-5-t-butyl-1,3,4-thiadiazole | 22.1 g | BrC=1SC(=NN1)C(C)(C)C | C6H9BrN2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-hydrazino-5-t-butyl-1,3,4-thiadiazole | 13.7 g, 79% | N(N)C=1SC(=NN1)C(C)(C)C | C6H12N4S
